US03950353
Reacting 2-(3-aminopropylamino)pyrazine with benzoyl isothiocyanate by the procedure of Example 46 gives N-benzoyl-N'-[3-(2-pyrazinylamino)propyl]thiourea. Removing the benzoyl group by the procedure of Example 46 gives N-[3-(2-pyrazinylamino)propyl]thiourea.

reactant | 2-(3-aminopropylamino)pyrazine | NCCCNC1=NC=CN=C1 | C7H12N4
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-benzoyl-N'-[3-(2-pyrazinylamino)propyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCCNC1=NC=CN=C1 | C15H17N5OS
